US06911443B2
Then a solution of 7-[4-(2-Chloro-ethoxy)-3-methoxy-phenyl]-5-ethylsulfanyl-imidazo[1,2-c]pyrimidine (800 mg, 2.2 mmol) in morpholine (10 ml) was stirred at 100° C. overnight. After cooling to room temperature, the mixture was poured into a dilute NaOH solution and extracted with CH2Cl2. The combined organic extract was dried over MgSO4 and concentrated in vacuo. The crude product was purified by column chromatography to give 5-Ethylsulfanyl-7-[3-methoxy-4-(2-morpholin-4-yl-ethoxy)-phenyl]-imidazo[1,2-c]pyrimidine (650 mg, 71%).

reactant | 7-[4-(2-Chloro-ethoxy)-3-methoxy-phenyl]-5-ethylsulfanyl-imidazo[1,2-c]pyrimidine | 2.2 mmol, 800 mg | ClCCOC1=C(C=C(C=C1)C1=CC=2N(C(=N1)SCC)C=CN2)OC | C17H18ClN3O2S
reactant | NaOH | [OH-].[Na+]
solvent | morpholine | 10 ml | N1CCOCC1 | C4H9NO
product | 5-Ethylsulfanyl-7-[3-methoxy-4-(2-morpholin-4-yl-ethoxy)-phenyl]-imidazo[1,2-c]pyrimidine | 650 mg, 71% | C(C)SC1=NC(=CC=2N1C=CN2)C2=CC(=C(C=C2)OCCN2CCOCC2)OC | C21H26N4O3S
